US06846819B1
e) 1-Ethyl-2-(methylaminomethyl)-1H-indole
2-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-ethyl-1H-indole (1.30 g, 4.0 mmole) was added to a suspension of Peariman's catalyst (about 0.30 g) in MeOH at RT in a Parr flask. The reaction was placed under 50 p.s.i. of H2 and shaken for 8 hr. The mixture was filtered through celite(D and the filter pad was washed with MeOH. The filtrate was concentrated to afford the title compound (0.75 g, 100%) as a light yellow solid: MS (ES) m/e 189 (M+H)+.

reactant | 2-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-ethyl-1H-indole | 4.0 mmole, 1.30 g | C(C1=CC=CC=C1)OC(=O)N(C)CC=1N(C2=CC=CC=C2C1)CC | C20H22N2O2
catalyst | Peariman's catalyst | about 0.30 g | [OH-].[OH-].[Pd+2]
solvent | MeOH | CO | CH4O
product | 1-Ethyl-2-(methylaminomethyl)-1H-indole | 0.75 g, 100% | C(C)N1C(=CC2=CC=CC=C12)CNC | C12H16N2
